US05223513
A mixture of 3-amino-6-chloro-4-phenyl-2(1H)-quinolone (160 mg), 2,4-difluorophenylisocyanate (0.09 ml) and anhydrous tetrahydrofuran (2 ml) was allowed to stand overnight at room temperature. The precipitated crystals were collected and recrystallized from dimethylformamide containing water to give colorless needles of N-(6-chloro-1,2-dihydro-2-oxo-4-phenyl-3-quinolyl)-N'-(2,4-difluorophenyl)urea (185 mg, 73.4%). mp 222°-224° C.

reactant | 3-amino-6-chloro-4-phenyl-2(1H)-quinolone | 160 mg | NC=1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O | C15H11ClN2O
reactant | 2,4-difluorophenylisocyanate | 0.09 ml | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(6-chloro-1,2-dihydro-2-oxo-4-phenyl-3-quinolyl)-N'-(2,4-difluorophenyl)urea | 185 mg, 73.4% | ClC=1C=C2C(=C(C(NC2=CC1)=O)NC(=O)NC1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C22H14ClF2N3O2
